US06992087B2
3,6-dicyclopropyl-5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-{[3,6-dicyclopropyl-5-(2,4-dichlorophenyl)pyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.80-1.07, 1.17-1.20, 1.67, 1.79, 3.14-3.20, 3.46-3.50, 3.70-3.72, 4.35, 5.72, 5.97, 7.24-7.50; MS (ESI+) for C27H27Cl2N3O m/z 480 (M+H)+.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-{[3,6-dicyclopropyl-5-(2,4-dichlorophenyl)pyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | C1(CC1)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1CC1)N[C@H]1[C@H](CC2=CC=CC=C12)O | C25H23Cl2N3O
product | 3,6-dicyclopropyl-5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine | C1(CC1)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1CC1)N[C@H]1[C@H](CC2=CC=CC=C12)OCC | C27H27Cl2N3O
